US07037908B2
2-(4-Fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-l -methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid 3-chloro-4-methyl-benzylamide.
Prepared according to the procedure described for example 2 from 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (55.56 mg, 0.15 mmol) and 3-chloro-4-methylbenzylamine (107 mg, 0.75 mmol). The title product was obtained as a pink solid (58.6 mg, 81% yield). 1HNMR (500 MHz, CDCl3) δ: 12.12 (1H, s), 7.87 (1H, dd, J=7.63, 2.45 Hz), 7.53 (1H, t, J=5.50 Hz), 7.48 (1H, td, J=7.62, 2.74 Hz), 7.42 (1H, dd, J=8.24, 4.89 Hz), 7.20 (1H, s), 7.17 (1H, d, J=7.63 Hz), 7.05 (1H, d, J=7.63 Hz), 4.57 (1H, dd, J=14.95, 6.72 Hz), 4.43 (1H, dd, J=14.95, 5.49 Hz), 3.26 (3H, s), 3.05 (3H, s), 2.33 (3H, s). HRMS (ESI) calcd for C21H20ClFN3O5S (M+H): 480.0796; found: 480.0793.

reactant | 2-(4-fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 55.56 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=C(C=C1)F)S(=O)(=O)C | C15H15FN2O6S
reactant | 3-chloro-4-methylbenzylamine | 0.75 mmol, 107 mg | ClC=1C=C(CN)C=CC1C | C8H10ClN
product | 2-(4-Fluoro-2-methanesulfonyl-phenyl)-5-hydroxy-l -methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid 3-chloro-4-methyl-benzylamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=C(C=C2)F)S(=O)(=O)C)C=CC1C | C21H19ClFN3O5S
